US08440666B2
2-[1-(Pyridin-4-yl)ethyl]isoindoline-1,3-dione
A tetrahydrofuran solution (10 mL) of 1-(pyridin-4-yl)ethanol (283 mg, 2.32 mmol), phthalimide (375 mg, 2.55 mmol) and triphenylphosphine (686 mg, 2.55 mmol) was mixed with diisopropyl azodicarboxylate (40% in toluene, 1.34 mL, 2.55 mmol) and stirred at room temperature for 29 hours. After completion of the reaction, the reaction solution was mixed with ethyl acetate, and the organic layer was washed with saturated aqueous sodium chloride, dried over anhydrous sodium sulfate and evaporated under reduced pressure. The resulting residue was purified by silica gel column chromatography (chloroform/ethyl acetate=10/1) to give the desired product (283 mg, 48% yield).

reactant | 1-(pyridin-4-yl)ethanol | 2.32 mmol, 283 mg | N1=CC=C(C=C1)C(C)O | C7H9NO
reactant | phthalimide | 2.55 mmol, 375 mg | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | triphenylphosphine | 2.55 mmol, 686 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 2.55 mmol, 1.34 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 2-[1-(Pyridin-4-yl)ethyl]isoindoline-1,3-dione | 283 mg, 48% yield | N1=CC=C(C=C1)C(C)N1C(C2=CC=CC=C2C1=O)=O | C15H12N2O2
